US07335781B2
Step (a): Preparing (1R,2S)-3-Methyl-1-phenyl-2-(1-pyrrolidinyl)butan-1-ol (6g4a)
Repeat Step (a) of EXAMPLE 1, but replace (2R,3S)-3-amino-4-methylpentan-2-ol with (1R,2S)-2-amino-3-methyl-1-phenylbutan-1-ol, and replace Na2CO3 (1.16 g, 11.0 mmol) with K2CO3 (1.52 g, 11.0 mmol). Column chromatography (Silica gel, eluent is n-Hexane:EtOAc=10:1) is used to purify the coarse product and a slightly-yellow liquid (1.00 g) is obtained. The yield is 86% and the other analysis includes:

reactant | (2R,3S)-3-amino-4-methylpentan-2-ol | N[C@H]([C@@H](C)O)C(C)C | C6H15NO
reactant | (1R,2S)-2-amino-3-methyl-1-phenylbutan-1-ol | N[C@H]([C@H](O)C1=CC=CC=C1)C(C)C | C11H17NO
reactant | Na2CO3 | 11.0 mmol, 1.16 g | C(=O)([O-])[O-].[Na+].[Na+]
reactant | K2CO3 | 11.0 mmol, 1.52 g | C(=O)([O-])[O-].[K+].[K+]
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | n-Hexane | CCCCCC | C6H14
product | (1R,2S)-3-Methyl-1-phenyl-2-(1-pyrrolidinyl)butan-1-ol | 1.00 g, yield is 86% | CC([C@@H]([C@H](O)C1=CC=CC=C1)N1CCCC1)C | C15H23NO
